US06528529B1
4-(3-Hydroxymethyl-piperidin-1-yl)-butyronitrile (6).
In an oven-dried 25 mL flask was placed piperidine-3-yl-methanol (1.12 g, 10 mmol) in acetonitrile (10 mL), followed by addition of potassium carbonate (1.38 g, 10 mmol) and 4-bromobutyronitrile (0.90 mL, 9 mmol). The reaction mixture was stirred at rt. for 12 h. The mixture was filtered and evaporated to dryness. Addition of H2O (20 mL) was followed by extraction with ethyl acetate (3×20 mL) and the combined organic phases were dried (MgSO4) and evaporated to dryness to produce 1.50 g of crude 6 which was used without further purification in the synthesis of compound 7.

reactant | piperidine-3-yl-methanol | 10 mmol, 1.12 g | N1CC(CCC1)CO | C6H13NO
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyronitrile | 9 mmol, 0.90 mL | BrCCCC#N | C4H6BrN
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3-Hydroxymethyl-piperidin-1-yl)-butyronitrile | OCC1CN(CCC1)CCCC#N | C10H18N2O
